US04600782
A solution of 2-cyanoadamantan-2-ol (6.0 grams, 0.03 mol) in ether was added to a suspension of lithium aluminum hydride (3.9 grams, 0.13 mol) in ether. The reaction mixture was refluxed for 6 hours. Following workup, 4.10 grams of 2-aminomethyl-2-hydroxyadamantane were obtained as white crystals, melting point 154°-156° C. (cyclohexane).

reactant | 2-cyanoadamantan-2-ol | 0.03 mol, 6.0 grams | C(#N)C1(C2CC3CC(CC1C3)C2)O | C11H15NO
reactant | lithium aluminum hydride | 0.13 mol, 3.9 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | ether | CCOCC | C4H10O
product | 2-aminomethyl-2-hydroxyadamantane | 4.10 grams | NCC1(C2CC3CC(CC1C3)C2)O | C11H19NO
